US07476764B2
Step 3: Preparation of 3-acetyl-5-(1,1-dioxo-1λ6-[1,2]thiazinan-2-yl)-benzoic acid.
To a solution of 3-acetyl-5-(1,1-dioxo-1λ6-[1,2]thiazinan-2-yl)-benzoic acid methyl ester (100 mg, 0.32 mmol) in a mixture of THF (0.3 mL), MeOH (0.6 mL) and H2O (1.5 mL) was added LiOH (23.1 mg, 0.96 mmol) and the mixture was stirred at room temperature for 1 h. The mixture was concentrated and partitioned between ethyl acetate and H2O. The aqueous layer was washed with ethyl acetate twice and acidified with 1N HCl solution to pH around 2˜3. The aqueous layer was extracted with ethyl acetate 3 times and the combined organic layers were dried over sodium sulfate and concentrated under vacuum to give the title compound (93 mg): 1H NMR (CD3OD, 500 MHz) δ ppm 1.93-1.99 (2H, m), 2.31-2.37 (2H, m), 2.67 (3H, s), 3.27-3.30 (2H, m), 3.83 (2H, t, J=5 Hz), 8.13 (1H, m), 8.20 (1H, m), 8.52 (1H, m). HPLC retention time: 1.292 min (method A). MS (ESI) (M+Na)+ 320.14.

reactant | 3-acetyl-5-(1,1-dioxo-1λ6-[1,2]thiazinan-2-yl)-benzoic acid methyl ester | 0.32 mmol, 100 mg | COC(C1=CC(=CC(=C1)N1S(CCCC1)(=O)=O)C(C)=O)=O | C14H17NO5S
reactant | MeOH | 0.6 mL | CO | CH4O
reactant | H2O | 1.5 mL | O | H2O
reactant | LiOH | 0.96 mmol, 23.1 mg | [Li+].[OH-]
solvent | THF | 0.3 mL | C1CCOC1 | C4H8O
product | 3-acetyl-5-(1,1-dioxo-1λ6-[1,2]thiazinan-2-yl)-benzoic acid | 93 mg | C(C)(=O)C=1C=C(C(=O)O)C=C(C1)N1S(CCCC1)(=O)=O | C13H15NO5S
